US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-hydroxy-4-phenylpiperidino)propyl]-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-dichlorophenyl)-3-(3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.75 g) was coupled to 4-hydroxy-4-phenyl-piperidine (0.34 g) as described in Example 1. After chromatography, using dichloromethane:methanol (20:1) as eluent, the free amine was converted to the hydrochloride salt, to give the title compound as a white solid (0.4 g); mp 190° C.(dec); MS: m/z=495(M+1); NMR (CDCl3): 2.02 (broad,4), 2.70 (broad,4), 4.92 (broad,1), 6.95-7.73 (m,12). Analysis for C28H28Cl2N2O2.HCl.0.5 H2O: Calculated: C, 62.17; H, 5.59; N, 5.18; Found: C, 62.01; H, 5.54; N, 4.98.

reactant | 3-(3,4-dichlorophenyl)-3-(3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.75 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1NC(C2=CC=CC=C12)=O | C17H13Cl2NO2
reactant | 4-hydroxy-4-phenyl-piperidine | 0.34 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
solvent | dichloromethane methanol | ClCCl.CO
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-hydroxy-4-phenylpiperidino)propyl]-2,3-dihydroisoindol-1-one hydrochloride | 0.4 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)(C1=CC=CC=C1)O)C1NC(C2=CC=CC=C12)=O | InChI=1S/C28H28Cl2N2O2.ClH/c29-24-11-10-19(18-25(24)30)21(26-22-8-4-5-9-23(22)27(33)31-26)12-15-32-16-13-28(34,14-17-32)20-6-2-1-3-7-20;/h1-11,18,21,26,34H,12-17H2,(H,31,33);1H
